US04954518
3.75 g of 3-carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was suspended in 75 ml of N,N-dimethylformamide. Thereto was dropwise added 4.6 g of phosphorus oxychloride at -10° to -5° C. The mixture was stirred for 3 hours at the same temperature. The reaction mixture was dropwise added to 40 ml of a concentrated aqueous ammonia solution at 10°-20° C. The mixture was stirred for 30 minutes at the same temperature and then adjusted to pH 4 with 4N hydrochloric acid. The resulting crystal was collected by filtration, washed with water and recrystallized from acetic acid to obtain 2.81 g (yield: 75.1%) of 3-carbamoyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of >250° C.

reactant | 3-carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.75 g | C(=O)(O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO7S
reactant | phosphorus oxychloride | 4.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | 40 ml | N | H3N
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-carbamoyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.81 g, yield: 75.1% | C(N)(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H14N2O6S
